US09447092B2
3-((4-(6-Chloro-2-(1,3-dimethyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-yl)piperazin-1-yl)methyl)-5-methyl-1,2,4-oxadiazole
To a solution of 5-chloro-4-(4-((5-methyl-1,2,4-oxadiazol-3-yl)methyl)piperazin-1-yl)-3-nitropyridin-2-amine (60.0 mg, 0.170 mmol) and 1,3-dimethyl-1H-pyrazole-4-carbaldehyde (22.2 mg, 0.179 mmol) in EtOH (3.8 mL) was added 1M Na2S2O4 (0.678 mL, 0.678 mmol, freshly prepared) and the solution was heated to 80° C. and stirred for 16 h whilst being open to air. Once cooled, the reaction was evaporated in vacuo and the residue dry loaded onto silica. Purification was accomplished by flash chromatography on silica gel (3×14) eluting with MeOH/CH2Cl2 (5-7.5%) to yield the title compound as a pale yellow solid. Recrystallisation in EtOAc/Et2O gave the title compound (20 mg, 27%) as an off white solid. The filtrate was concentrated in vacuo, an additional amount of title compound (12 mg, 16%) as a pale yellow solid. 1H-NMR (500 MHz, CDCl3) 2.60 (s, 3H, CH3), 2.62 (s, 3H, CH3), 2.81 (app t, J=4.5 Hz, 4H, CH2), 3.76 (s, 2H, —CH2—), 3.87 (app s, 4H, CH2), 3.90 (s, 3H, NCH3), 7.77 (br s, 1H, CHar), 7.96 (br S, 1H, CHar), 12.18 (s, 1H, NH);

reactant | 5-chloro-4-(4-((5-methyl-1,2,4-oxadiazol-3-yl)methyl)piperazin-1-yl)-3-nitropyridin-2-amine | 0.170 mmol, 60.0 mg | ClC=1C(=C(C(=NC1)N)[N+](=O)[O-])N1CCN(CC1)CC1=NOC(=N1)C | C13H16ClN7O3
reactant | 1,3-dimethyl-1H-pyrazole-4-carbaldehyde | 0.179 mmol, 22.2 mg | CN1N=C(C(=C1)C=O)C | C6H8N2O
reactant | Na2S2O4 | 1M | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | EtOH | 3.8 mL | CCO | C2H6O
product | 3-((4-(6-Chloro-2-(1,3-dimethyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-yl)piperazin-1-yl)methyl)-5-methyl-1,2,4-oxadiazole | ClC=1C(=C2C(=NC1)NC(=N2)C=2C(=NN(C2)C)C)N2CCN(CC2)CC2=NOC(=N2)C | C19H22ClN9O
